US04415572
To a mixture of 1.2 g of 6-(1-piperazinyl)-3,4-dihydrocarbostyril, 1.17 g of potassium bicarbonate and 20 ml of DMF was added 646 mg of 4-methylbenzyl chloride and the mixture was stirred at 80° C. for 2.5 hours. The reaction mixture was poured into a large amount of water and extracted with chloroform. After washing with water the extract was dried over anhydrous sodium sulfate. Chloroform was distilled off and the residue was purified through silica gel column chromatography. After conversion to hydrochloric acid salt with methanol-hydrochloric acid, the product was recrystallized from methanol-water to give 0.17 g of 6-[4-(4-methylbenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril dihydrochloride, m.p. 272°-273° C. (decomp.), colorless powders.

reactant | 6-(1-piperazinyl)-3,4-dihydrocarbostyril | 1.2 g | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | potassium bicarbonate | 1.17 g | C([O-])(O)=O.[K+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | 4-methylbenzyl chloride | 646 mg | CC1=CC=C(CCl)C=C1 | C8H9Cl
solvent | water | O | H2O
product | 6-[4-(4-methylbenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril dihydrochloride | 0.17 g | Cl.Cl.CC1=CC=C(CN2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=C1 | InChI=1S/C21H25N3O.2ClH/c1-16-2-4-17(5-3-16)15-23-10-12-24(13-11-23)19-7-8-20-18(14-19)6-9-21(25)22-20;;/h2-5,7-8,14H,6,9-13,15H2,1H3,(H,22,25);2*1H
